US07141583B2
(5R)-3-(4-Methylthiophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-Methylthiophenyl)-5-azidomethyloxazolidin-2-one (1.62 g, 6.14 mM) was dissolved in dioxane (30 ml), treated with norbornadiene (2.98 g, 31.5 mM) and heated under reflux for 6 hours. After removal of the solvent, the residue was dissolved in the minimum of hot ethyl acetate, filtered, cooled, then diluted with isohexane to precipitate the desired product (600 mg).

reactant | (5R)-3-(4-Methylthiophenyl)-5-azidomethyloxazolidin-2-one | 6.14 mM, 1.62 g | CSC1=CC=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O | C11H12N4O2S
reactant | norbornadiene | 31.5 mM, 2.98 g | C12=CC=C(CC1)C2 | C7H8
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-(4-Methylthiophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | CSC1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C13H14N4O2S
